* Wide-Swing Cascode Mirror - DC sweep
* run: ngpice wscm.cir

* Include the model file
.include "sky130_fd_pr_nfet_01v8_tt_nominal_bsim4.spice"

*.probe all

* Define the circuit
* 	Instance of the NMOS transistors
M1 d1 g1 0  0 sky130_fd_pr__nfet_01v8__model.31 l=1.0u w=2u
M2 d2 g1 0  0 sky130_fd_pr__nfet_01v8__model.31 l=1.0u w=2u
M3 g1 cc d1 0 sky130_fd_pr__nfet_01v8__model.32 l=0.5u w=2u
M4 nn cc d2 0 sky130_fd_pr__nfet_01v8__model.32 l=0.5u w=2u

* Voltage sources
* 	Power supply
Vcc cc 0 DC=1.3
* 	Gate voltage (DC sweep)
Vnn nn 0 DC=1.2

* Current source Iin
Iin 0 g1 DC=1u


.dc Iin 0.5u 100u 10n

.control

  options numdgt=15
    
  run
  display
  
  set xbrushwidth=2
  plot g1 d1
  
  wrdata wscm.txt g1 d1
  
.endc
